US03941821
To a solution of 0.144 moles of ethyl 2'-chloro-4-biphenylylglycolate dissolved in 220 ml. of isopropanol is added 38 g. (0.7 mole) of potassium hydroxide. This mixture is then heated at reflux temperature in a nitrogen atmosphere. The solution is concentrated in vacuo to a viscous oil, which is then dissolved in 500 ml. of water and filtered. The filtrate is acidified with 10% HCl and the precipitate is taken up in ether. The ether layer is dried, filtered and the filtrate concentrated to dryness. Recrystallization of residue from benzene-cyclohexane 1:1 gives 2'-chloro-4-biphenylylglycolic acid.

reactant | ethyl 2'-chloro-4-biphenylylglycolate | 0.144 moles | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)O | C16H15ClO3
reactant | potassium hydroxide | 0.7 mole | [OH-].[K+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2'-chloro-4-biphenylylglycolic acid | ClC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)O)O | C14H11ClO3
